US04343722
0.76 g of dicobalt octacarbonyl, 0.3 g of various aromatic nitriles and 20 ml of m-xylene as a solvent were charged into a 100 ml eggplant type flask equipped with a reflux condenser and a gas inlet tube, and the air was thoroughly replaced while introducing nitrogen through the gas inlet tube. Thereafter, the flask was heated in an oil bath and the temperature of oil bath was elevated to 160° C. The flask was heated for 90 minutes under reflux conditions while passing nitrogen therethrough, and then the heating was discontinued and the flask was cooled to room temperature. The precipitate formed was directly transferred into a shaking type autoclave having a net capacity of 100 ml together with solvent m-xylene. After adding 10 g of isophthalonitrile and 10 ml of m-xylene thereto, the gas in the autoclave was replaced with nitrogen. After adding 10 ml of liquid ammonia thereto, hydrogen was fed up to a pressure of 260 kg/cm2 gage and the hydrogenation of isophthalonitrile was carried out at a reaction temperature of 100° C. until no absorption of hydrogen took place. The m-xylenediamine thus formed was analyzed by gas chromatography, the results as shown in Table 1 were obtained.

reactant | isophthalonitrile | 10 g | C(C1=CC(C#N)=CC=C1)#N | C8H4N2
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
reactant | m-xylene | 20 ml | C1(=CC(=CC=C1)C)C | C8H10
reactant | m-xylene | 10 ml | C1(=CC(=CC=C1)C)C | C8H10
solvent | dicobalt octacarbonyl | 0.76 g | [CH-]=O.[CH-]=O.[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Co].[Co+2]
product | m-xylenediamine | C=1(C(=C(C(=CC1)N)C)N)C | C8H12N2
